US08470884B2
A light yellow solution of (6-fluoro-4-hydroxy-3-methyl-naphthalen-2-yl)-acetic acid methyl ester (12.2 g, 49.1 mmol) in methylene chloride (500 mL) was cooled to 0° C. using an ice-acetone bath. Pyridine (5.17 mL, 63.9 mmol) was added and then trifluoromethanesulfonic acid anhydride (20.8 g, 73.7 mmol) was added dropwise to the cold solution over 40 minutes. The resulting light yellow solution was stirred for two hours at 0° C. before being warmed to room temperature. The reaction mixture was stirred for another 30 minutes at room temperature. The mixture was quenched with water (300 mL) and the two layers were separated. The aqueous layer was extracted with dichloromethane (200 mL). The combined organic layers were washed with brine, dried over anhydrous MgSO4, filtered, and concentrated to give the crude product as a light yellow solid. The crude product was dissolved in dichloromethane (−50 mL) with heating and then the mixture was diluted with hexanes (˜100 mL). Some of the solvent was removed by heating with a heat gun. The resulting light brown solution was stored in the freezer for 15 hours. A white solid precipitated, which was collected by filtration and washed with hexanes. After air drying, (6-fluoro-3-methyl-4-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid methyl ester (14.32 g, 77%) was isolated. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.83 (dd, J=9.03, 5.52 Hz, 1H), 7.75 (s, 1H), 7.65 (dd, J=10.29, 2.51 Hz, 1H), 7.31 (td, J=8.60, 2.38 Hz, 1H), 3.85 (s, 2H), 3.74 (s, 3H).

reactant | (6-fluoro-4-hydroxy-3-methyl-naphthalen-2-yl)-acetic acid methyl ester | 49.1 mmol, 12.2 g | COC(CC1=CC2=CC=C(C=C2C(=C1C)O)F)=O | C14H13FO3
reactant | Pyridine | 63.9 mmol, 5.17 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 73.7 mmol, 20.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | −50 mL | ClCCl | CH2Cl2
product | (6-fluoro-3-methyl-4-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid methyl ester | 14.32 g, 77% | COC(CC1=CC2=CC=C(C=C2C(=C1C)OS(=O)(=O)C(F)(F)F)F)=O | C15H12F4O5S
